US04320135
7-Oxa-1,3-diazaspiro[4.4]nonane-2,4-dione
A solution of 19.2 g of ammonium carbonate in 42 ml of ethanol and 28 ml of water is added to 10.0 g of 3-ketotetrahydrofuran. The resulting mixture is heated to 55° and to it is then added, dropwise, a solution of 6.3 g of potassium cyanide in 15 ml of water. The reaction mixture is stirred at 55° for 18 hrs. Thereafter the reaction mixture is evaporated in vacuo to dryness to obtain a residue. The residue is dissolved in a minimum of water and the mixture made acidic with 2 N hydrochloric acid. The first crop of the title product precipitates out on cooling and is filtered off. A second crop of the title product is obtained by concentrating the filtrate and cooling. The two combined crops are recrystalized from ethanol to give refined title product, m.p. 202°-204°.

reactant | ammonium carbonate | 19.2 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | 3-ketotetrahydrofuran | 10.0 g | O=C1COCC1 | C4H6O2
reactant | potassium cyanide | 6.3 g | [C-]#N.[K+]
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | ethanol | 42 ml | C(C)O | C2H6O
solvent | water | 28 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 7-Oxa-1,3-diazaspiro[4.4]nonane-2,4-dione | N1C(NC(C12COCC2)=O)=O | C6H8N2O3
